US08686022B2
2-bromophenylhydrazine
15 g 2-bromophenylhydrazine hydrochloride are suspended in 400 ml of toluene and combined with 240 ml of 1 N sodium hydroxide solution. The mixture is stirred for 1 hour and the phases are separated. The organic phase is dried on magnesium sulphate and the solvents are eliminated in vacuo. The crude product thus obtained is further reacted directly.

reactant | 2-bromophenylhydrazine hydrochloride | 15 g | Cl.BrC1=C(C=CC=C1)NN
reactant | sodium hydroxide | 1 N, 240 ml | [OH-].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromophenylhydrazine | BrC1=C(C=CC=C1)NN | C6H7BrN2
